US06410643B1
Preparation of N-Acrylamido-D-glucosamine (AGA) (Compound VI)
Another alternative monomer containing a functional group in the form of a hydroxyl group was prepared in the following manner. Glucosamine hydrochloride 10.0 g, (0.0464 moles) was added to 12 ml of 3.8-M sodium hydroxide. Potassium carbonate 0.30 g, (0.0022 moles) and sodium nitrite 0.35 g, (0.0051 moles) were then added and the mixture was stirred until a clear solution was obtained. To the clear solution was added 10-ml chloroform, and the mixture was stirred vigorously while in an ice bath. A solution of acryloyl chloride 4.45g, (4.0 ml; 0.0492 moles) in 5 ml of chloroform was added in 100 microliter portions with alternate additions of 55 μl of 10 N sodium hydroxide (4.95 ml total) with stirring in an ice bath. The stirring was continued for 30 minutes after the additions were complete. The chloroform was removed. The pH was adjusted to 3 followed by 3×10-ml extractions of chloroform to remove acrylic acid. The water solution was stored at ˜4° C. The use of AGA in polymerization is described in Examples 12 and 13.

reactant | Glucosamine hydrochloride | 0.0464 moles, 10.0 g | Cl.OC1[C@H](N)[C@@H](O)[C@H](O)[C@H](O1)CO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | Potassium carbonate | 0.0022 moles, 0.30 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium nitrite | 0.0051 moles, 0.35 g | N(=O)[O-].[Na+]
reactant | acryloyl chloride | 4.45g | C(C=C)(=O)Cl | C3H3ClO
reactant | sodium hydroxide | 10 N, 55 μl | [OH-].[Na+]
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10-ml | C(Cl)(Cl)Cl | CHCl3
product | N-Acrylamido-D-glucosamine | C(C=C)(=O)NN[C@H]1C(O)O[C@@H]([C@H]([C@@H]1O)O)CO | C9H16N2O6
